US04568478
Preparation of Electrophilic Fluorinating Agent from Potassium Perfluorooctanoate Hydrate
Potassium perfluorooctanoate (6 g) was stored in a desiccator over water for 3 days. After this period, the increased weight of the salt indicated the formation of the 1.0-1.5 hydrate. The hydrated salt was fluorinated in perfluoro-2-butyltetrahydrofuran with 1% fluorine in nitrogen until a solution containing 2.5 to 3 meq/l of fluoroxy compounds was formed.

reactant | Potassium perfluorooctanoate | 6 g | FC(C(=O)[O-])(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F.[K+]
reactant | water | O | H2O
reactant | fluorine | FF | F2
solvent | perfluoro-2-butyltetrahydrofuran | FC1(OC(C(C1(F)F)(F)F)(F)F)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C8F16O
product | Potassium Perfluorooctanoate Hydrate | O.FC(C(=O)[O-])(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)F.[K+] | InChI=1S/C8HF15O2.K.H2O/c9-2(10,1(24)25)3(11,12)4(13,14)5(15,16)6(17,18)7(19,20)8(21,22)23;;/h(H,24,25);;1H2/q;+1;/p-1
